US05698553
from 7-(2-(3-benzylpiperidino)-1-oxoethyl)-2,3-dihydro-1,4-benzoxazin-3-one ("F"; obtainable by reaction of 2,3-dihydro-1,4-benzoxazin-3-one with chloroacetyl chloride to give 7-chloroacetyl-2,3-dihydro-4H-1,4-benzoxazin-3-one ("G"), then reaction with 3-benzylpiperidine):

reactant | 7-(2-(3-benzylpiperidino)-1-oxoethyl)-2,3-dihydro-1,4-benzoxazin-3-one | C(C1=CC=CC=C1)C1CN(CCC1)CC(=O)C1=CC2=C(NC(CO2)=O)C=C1 | C22H24N2O3
reactant | 2,3-dihydro-1,4-benzoxazin-3-one | O1CC(NC2=C1C=CC=C2)=O | C8H7NO2
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | 7-chloroacetyl-2,3-dihydro-4H-1,4-benzoxazin-3-one | ClCC(=O)C1=CC2=C(NC(CO2)=O)C=C1 | C10H8ClNO3
